US06995144B2
3-[4-(2-Fluorobenzylsulfinyl)piperidino]methyl-1H-pyrazin-2-one
After dissolving 57 mg of 3-[4-(2-fluorobenzylthio)piperidino]methyl-1H-pyrazin-2-one in 3 ml of dichloromethane, 31 mg of 3-chloroperbenzoic acid was added at below −70° C., the mixture was stirred for 30 minutes, and then an additional 5 mg of 3-chloroperbenzoic acid was added and the stirring was continued for 20 minutes. Aqueous sodium thiosulfate solution was added to the reaction solution and extraction was performed with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: chloroform/methanol/ammonia water) to obtain the title compound (16 mg, 27% yield).

reactant | 3-[4-(2-fluorobenzylthio)piperidino]methyl-1H-pyrazin-2-one | 57 mg | FC1=C(CSC2CCN(CC2)CC=2C(NC=CN2)=O)C=CC=C1 | C17H20FN3OS
reactant | 3-chloroperbenzoic acid | 31 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloroperbenzoic acid | 5 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-[4-(2-Fluorobenzylsulfinyl)piperidino]methyl-1H-pyrazin-2-one | 16 mg, 27% yield | FC1=C(CS(=O)C2CCN(CC2)CC=2C(NC=CN2)=O)C=CC=C1 | C17H20FN3O2S
